US09376454B2
Step 4. Synthesis of 2-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)ethyl)amino)-5-(2-methoxy-2-oxoethyl)pyridine 1-oxide
To 2-(2-(tert-butoxycarbonylamino)ethylamino)-5-(2-methoxy-2-oxoethyl)pyridine 1-oxide (1.3 g) in DCM (20 mL) was added di-tert-butyl dicarbonate (1.7 g), TEA (1.2 mL), and DMAP (0.1 mg). The resulting reaction mixture was stirred at room temperature for overnight. The solvent was removed and the residue was used in the next step without further purification.

reactant | 2-(2-(tert-butoxycarbonylamino)ethylamino)-5-(2-methoxy-2-oxoethyl)pyridine 1-oxide | 1.3 g | C(C)(C)(C)OC(=O)NCCNC1=[N+](C=C(C=C1)CC(=O)OC)[O-] | C15H23N3O5
reactant | di-tert-butyl dicarbonate | 1.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)ethyl)amino)-5-(2-methoxy-2-oxoethyl)pyridine 1-oxide | C(C)(C)(C)OC(=O)N(C1=[N+](C=C(C=C1)CC(=O)OC)[O-])CCNC(=O)OC(C)(C)C | C20H31N3O7
